US08372970B2
Step 3: Synthesis of (2-hydroxyethyl)-[2-hydroxy-2-(4-nitro-phenyl)-ethyl]-carbamic acid tert-butyl ester (4)
To 2-(2-hydroxy-ethylamino)-1-(4-nitro-phenyl)-ethanol (10.00 g, 44.2 mmol) in dichloromethane (80 mL) was added triethylamine (6.15 mL, 4.46 g, 44.2 mmol) followed by di-tert-butyl dicarbonate (9.65 g, 44.2 mmol) dissolved in dichloromethane (20 mL). The reaction mixture was stirred for 4 h at room temperature, washed with water (50 mL), and the aqueous layer was back extracted with ethyl acetate (2×50 mL). The combined organic layers were dried over sodium sulfate, filtered and evaporated. The residue was triturated with diisopropyl ether and collected. The title compound (12.04 g, 36.9 mmol) was obtained as a white solid. ESMS m/z 349 (M+Na)+;

reactant | 2-(2-hydroxy-ethylamino)-1-(4-nitro-phenyl)-ethanol | 44.2 mmol, 10.00 g | OCCNCC(O)C1=CC=C(C=C1)[N+](=O)[O-] | C10H14N2O4
reactant | triethylamine | 44.2 mmol, 6.15 mL, 4.46 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 44.2 mmol, 9.65 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (2-hydroxyethyl)-[2-hydroxy-2-(4-nitro-phenyl)-ethyl]-carbamic acid tert-butyl ester | 36.9 mmol, 12.04 g | C(C)(C)(C)OC(N(CC(C1=CC=C(C=C1)[N+](=O)[O-])O)CCO)=O | C15H22N2O6
